US09085555B2
[3-Chloro-2-fluoro-5-(4-methoxy-piperidin-1-ylmethyl)-benzyl]-carbamic acid tert-butyl ester
was prepared according to Scheme C2 (step C) from (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester (200 mg, 0.59 mmol), 1-methoxypiperidine (68 mg, 0.59 mmol), acetic acid (0.051 mL, 0.89 mmol) and sodium triacetoxyborohydride (313 mg, 1.5 mmol) in THF (8 mL). MS (LC-MS): 387.0 [M]+

reactant | (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester | 0.59 mmol, 200 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=O)Cl)F)=O | C13H15ClFNO3
reactant | 1-methoxypiperidine | 0.59 mmol, 68 mg | CON1CCCCC1 | C6H13NO
reactant | acetic acid | 0.89 mmol, 0.051 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.5 mmol, 313 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [3-Chloro-2-fluoro-5-(4-methoxy-piperidin-1-ylmethyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN1CCC(CC1)OC)Cl)F)=O | C19H28ClFN2O3
